* source PROIECTCAD2
R_R1         N00472 N00142 R_R1 10k TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
R_R2         N00142 N00159 R_R2 22k TC=0,0 
.model        R_R2 RES R=1 DEV=5% TC1=0 TC2=0
D_D1         N00323 N00159 D1N4148 
D_D2         N00159 N00319 D1N4148 
R_R3         N00323 N00327 R_R3 10k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
R_R4         N00319 N00327 R_R4 43.2k TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
C_C1         N00327 N00472  1n  TC=0,0 
X_R5         N09198 N00645 N09194 POT PARAMS: SET={fumax} VALUE=10k
R_R9         10 N09194 R_R9 4.99k TC=0,0 
.model        R_R9 RES R=1 DEV=2% TC1=0 TC2=0
R_R10         N09198 -10 R_R10 10k TC=0,0 
.model        R_R10 RES R=1 DEV=5% TC1=0 TC2=0
V_V4         -10 0 -10V
V_V3         10 0 10V
X_U4A         0 N11257 10 -10 PWM TL082
R_R11         N06722 N11257 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
X_R12         0 N11257 PWM POT PARAMS: SET={Amax} VALUE=10K
X_U4B         N00142 0 10 -10 N00159 TL082
X_U5A         0 N00327 10 -10 N00472 TL082
X_U5B         N00472 N00645 10 -10 N06722 TL082
.PARAM  fumin=0.35 amax=0.45 amin=0.1 fumax=0.75
